US05387747
5-[(2'-Cyanobiphenyl-4-yl)methyl]-4,6-dioxononane
15.6 g of 4,6-dioxononane, prepared from methyl propyl ketone and ethyl butyrate in the presence of lithium amide (according to CA 42: 4129 f), are dissolved in 160 ml of anhydrous DMF. 4 g of 60% NaH are added in portions. When the exothermic effect has subsided, the mixture is cooled to room temperature and a solution of 27.2 g of 4'-bromomethyl-2-cyanobiphenyl, prepared in Example 4, in 90 ml of DMF is introduced dropwise. The mixture is stirred for 30 min at room temperature and then heated at 60° C. for 2 h. It is concentrated under vacuum and the concentrate is taken up in a water/dichloromethane mixture and acidified with a dilute solution of HCl. After decantation, the aqueous phase is extracted twice with dichloromethane. The organic phases are washed with water, dried and then concentrated to give 36.3 g of an oil, which is purified by chromatography twice in succession (eluent: chloroform, then cyclohexane 90%/ethyl acetate 10% respectively) to give a solid identified by NMR as being the enol tautomer melting at 105° C., and an oil corresponding to the diketone tautomeric form.

reactant | 4,6-dioxononane | 15.6 g | O=C(CCC)CC(CCC)=O | C9H16O2
reactant | methyl propyl ketone | C(CC)C(=O)C | C5H10O
reactant | ethyl butyrate | C(CCC)(=O)OCC | C6H12O2
reactant | lithium amide | [NH2-].[Li+]
reactant | NaH | 4 g | [H-].[Na+]
reactant | 4'-bromomethyl-2-cyanobiphenyl | 27.2 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 5-[(2'-Cyanobiphenyl-4-yl)methyl]-4,6-dioxononane | 36.3 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(CCC)=O)C(CCC)=O | C23H25NO2
